US05756066
a) 5-Methoxyacetylamino-2,4,6-triiodisophthalic acid-N,N-bis-(methoxycarbonylmethyl)-amide-chloride
A solution of 66.8 g (100 mmol) of 5-methoxyacetylamino-2,4,6-triiodisophthalic acid dichloride (EP 0015867) in 300 ml of anhydrous N,N-dimethylformamide is mixed with 21.75 g (110 mmol) of iminodiacetic acid dimethyl ester-hydrochloride (synthesis according to Dubsky, Graenacher, Chem. Ber. 50, 1693 (1917)) and 30.5 ml (220 mmol) of triethylamine. A suspension results, which is stirred for 14 hours at room temperature under argon. The batch is taken up in dichloromethane, shaken out once with water, twice with 2n aqueous citric acid and once with aqueous sodium bicarbonate solution. The organic phase is dried on anhydrous magnesium sulfate and concentrated by evaporation in a vacuum. By instillation of tert-butyl ether in the concentrated solution, the title compound can be precipitated as crystalline solid, which is suctioned off and dried in a vacuum.

reactant | 5-methoxyacetylamino-2,4,6-triiodisophthalic acid dichloride | 100 mmol, 66.8 g | COCC(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C11H6Cl2I3NO4
reactant | iminodiacetic acid dimethyl ester-hydrochloride | 110 mmol, 21.75 g | Cl.COC(CNCC(=O)OC)=O
reactant | triethylamine | 220 mmol, 30.5 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Methoxyacetylamino-2,4,6-triiodisophthalic acid-N,N-bis-(methoxycarbonylmethyl)-amide-chloride | [Cl-].COC(=O)CN(C(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)CC(=O)OC | InChI=1S/C17H17I3N2O9.ClH/c1-29-6-7(23)21-15-13(19)10(12(18)11(14(15)20)17(27)28)16(26)22(4-8(24)30-2)5-9(25)31-3;/h4-6H2,1-3H3,(H,21,23)(H,27,28);1H/p-1
